US09216980B2
Step 5: 5-(1-Ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 9-benzenesulfonyl-5-(1-ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (200 mg, 0.4 mmol) and triethylamine (4 mL) in methanol (40 mL) was stirred at ambient temperature for 6 days. The mixture was concentrated in vacuo and the residue purified by flash chromatography (silica, 2 g column, Si-SPE, 0-20% MeOH in DCM). The resultant material was triturated with acetonitrile and methanol to afford the title compound as a white solid (65 mg, 51%). 1H NMR (DMSO-D6, 400 MHz): 12.85 (s, 1H), 8.90 (s, 1H), 8.70 (dd, J=4.8, 1.5 Hz, 1H), 8.65 (dd, J=8.0, 1.6 Hz, 1H), 7.46 (dd, J=8.0, 4.8 Hz, 1H), 2.86-2.77 (m, 2H), 2.24 (q, J=7.2 Hz, 2H), 1.84-1.58 (m, 5H), 1.54-1.40 (m, 2H), 0.95 (t, J=7.1 Hz, 3H). LCMS (Method H): RT=4.56 min, M+H+=320.

reactant | 9-benzenesulfonyl-5-(1-ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.4 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3CC3CCN(CC3)CC)C#N)C=CC=N2 | C25H25N5O2S
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 mL | CO | CH4O
product | 5-(1-Ethyl-piperidin-4-ylmethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 65 mg, 51% | C(C)N1CCC(CC1)CC1=C(N=CC2=C1C1=C(N2)N=CC=C1)C#N | C19H21N5
